US07947851B2
Step b) Formation of N-{2-[(4-butylphenyl)ethynyl]benzyl}-N-hexyl-2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxamide
A solution of N-{2-[(4-butylphenyl)ethynyl]benzyl}-1-hexanamine (174 mg, 0.50 mmol), 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxylic acid (122 mg, 0.55 mmol), EDC.HCl (115 mg, 0.60 mmol), DIEA (102 μl, 0.60 mmol) and HOBT (81 mg, 0.60 mmol) in DCM (10 mL) was stirred at rt for 3 hrs. The reaction mixture was diluted with DCM and washed with a saturated aqueous solution of NaHCO3, an aqueous solution of HCl (1N) and brine. The organic layer was dried over MgSO4 and the solvent Was removed under reduced pressure. Purification by flash chromatography on silicagel (EtOAc/c-Hex (20/80)) gave 238 mg (87%) of the title compound. HPLC, Rt: 6.14 min (purity: 86.7%).

reactant | N-{2-[(4-butylphenyl)ethynyl]benzyl}-1-hexanamine | 0.50 mmol, 174 mg | C(CCC)C1=CC=C(C=C1)C#CC1=C(CNCCCCCC)C=CC=C1 | C25H33N
reactant | 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxylic acid | 0.55 mmol, 122 mg | CC1(OC(C2=C(O1)C=CC(=C2)C(=O)O)=O)C | C11H10O5
reactant | EDC.HCl | 0.60 mmol, 115 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 0.60 mmol, 102 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 0.60 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[(4-butylphenyl)ethynyl]benzyl}-N-hexyl-2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carboxamide | 238 mg, 87% | C(CCC)C1=CC=C(C=C1)C#CC1=C(CN(C(=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=CC=C1 | C36H41NO4
